US09302998B2
STEP B: 1-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-5-[tert-butoxycarbonyl-(4-morpholin-4-yl-phenyl)-amino]-1H-[1,2,3]triazole-4-carboxylic acid methyl ester
A solution of 1,5-bis-benzyloxy-2-isopropyl-4-azido-benzene (373 mg, 1 mmol) and [t-butoxycarbonyl-(4-morpholin-4-yl-phenyl)-amino]-propynoic acid methyl ester (328 mg, 0.91 mmol) in DMF (2.5 ml) was degassed at RT by means of three vacuum-nitrogen cycles before adding [Cp*RuCl]4 (49 mg, 0.045 mmol) and repeating the three degassing cycles with nitrogen. The reaction mixture was stirred at RT until completion (i.e., monitored by TLC). AcOEt and H2O were then added. The organic phase was extracted four times with AcOEt, washed with water (three times) and brine (once) and dried over Na2SO4. The solvent was removed under reduced pressure and the reaction mixture was purified by column chromatography (PE/AcOEt:60/40). The title compound was obtained as an oil.

reactant | 1,5-bis-benzyloxy-2-isopropyl-4-azido-benzene | 1 mmol, 373 mg | C(C1=CC=CC=C1)OC1=C(C=C(C(=C1)OCC1=CC=CC=C1)N=[N+]=[N-])C(C)C | C23H23N3O2
reactant | [t-butoxycarbonyl-(4-morpholin-4-yl-phenyl)-amino]-propynoic acid methyl ester | 0.91 mmol, 328 mg | COC(C#CN(C1=CC=C(C=C1)N1CCOCC1)C(=O)OC(C)(C)C)=O | C19H24N2O5
reactant | AcOEt | CCOC(=O)C | C4H8O2
reactant | H2O | O | H2O
solvent | DMF | 2.5 ml | CN(C)C=O | C3H7NO
product | 1-(2,4-bis-benzyloxy-5-isopropyl-phenyl)-5-[tert-butoxycarbonyl-(4-morpholin-4-yl-phenyl)-amino]-1H-[1,2,3]triazole-4-carboxylic acid methyl ester | Yield: 70% | COC(=O)C=1N=NN(C1N(C1=CC=C(C=C1)N1CCOCC1)C(=O)OC(C)(C)C)C1=C(C=C(C(=C1)C(C)C)OCC1=CC=CC=C1)OCC1=CC=CC=C1 | C42H47N5O7
